Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
dysarthria
 
Major Surgical or Invasive Procedure:
Dialysis was done ___ and ___

 
History of Present Illness:
The patient is a ___ right-handed woman with HTN, HLD,
DM, and ESRD on HD who presents with two weeks of dysarthria and
mild facial droop. These were first noted immediately after
dialysis two weeks ago, but today her niece brought her to the
emergency room against the patient's protestations. The
dysarthria has been persistent since first noted. The facial
droop is denied by the patient but at some point became apparent
to family members.

In retrospect, Ms. ___ had similar dysarthria about a month 
ago
lasting several hours, but it resolved so she did not present to
medical attention. Otherwise she has had no similar episodes and
no other new concerns. She reports her blood sugar and blood
pressure have been "okay" but she does not check them herself.
She is not taking her insulin.
 
On neuro ROS, the pt denies headache, loss of vision, blurred
vision worse than baseline, diplopia, dysphagia, 
lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech. Denies focal weakness,
numbness, parasthesiae. No bowel or bladder incontinence or
retention. Non-ambulatory at baseline.  
 
On general review of systems, the pt denies recent fever or
chills. No night sweats or recent weight loss or gain. Denies
cough, shortness of breath. Denies chest pain or tightness,
palpitations. Denies nausea, vomiting, diarrhea, constipation or
abdominal pain. No recent change in bowel or bladder habits. No
dysuria. Denies arthralgias or myalgias. Denies rash. 
 
Past Medical History:
IDDM2 (dx ___ yrs ago), multiple admissions for uncontrolled DM  

ESRD on hemodialysis (M, W, F)  
HTN  
Hypercholestolemia  
PSH:  
Jump graft revision with thrombectomy of right  
upper extremity AV graft ___  
___ RUE AVG revision

 
Social History:
___
Family History:
father died of etoh-induced cirrhosis ___ y/o  
mother died of pna at ___ y/o  
grandmother had DM  
5 siblings w/o DM  

 
Physical Exam:
Physical Exam:  
Vitals: T:97.8 P:73 R:18 BP:106/57 SaO2:96% RA  
General: Awake, cooperative, NAD.  
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx  
Neck: Supple. No nuchal rigidity. Full range of motion 
Pulmonary: Breathing comfortably on room air.
Skin: no rashes or lesions noted.  
 
Neurological examination:  
___ Stroke Scale score was 7  
1a. Level of Consciousness: 0  
1b. LOC Question: 0  
1c. LOC Commands: 0  
2. Best gaze: 0  
3. Visual fields: 3  [unable to see well enough to assess]
4. Facial palsy: 1
5a. Motor arm, left: 0  
5b. Motor arm, right: 0  
6a. Motor leg, left: 1  
6b. Motor leg, right: 1  
7. Limb Ataxia: 0  
8. Sensory: 0  
9. Language: 0  [no visual stimuli testable]
10. Dysarthria: 1
11. Extinction and Neglect: 0  
- Mental Status:  
ORIENTATION - Alert, oriented x 3 
SPEECH  
Able to relate history without difficulty.  
Language is fluent with intact repetition and comprehension.  
Normal prosody. There were no paraphasic errors.  
Speech was significantly dysarthric.  
NAMING, READING - Unable to assess. Was able to understand and
follow commands such as "point to the thing that makes the room
bright", point to exit, etc
CALCULATION - Unable to report 7 quarters in $1.75 
ATTENTION - Attentive, able to name ___ backward without
difficulty.  
REGISTRATION and RECALL  
Pt. was able to register 3 objects and recall ___ at 5 minutes
with prompting.  
COMPREHENSION  
Able to follow both midline and appendicular commands  
There was no evidence of apraxia or neglect  
 
- Cranial Nerves:  
I: Olfaction not tested.  
II: PERRL 2.5 to 2mm and brisk. Funduscopic exam provided 
limited
glimpse of left disk only which was flat.  
III, IV, VI: EOMI without nystagmus. 
V: Facial sensation intact to light touch and pinprick
VII: Slight decreased activation of the left, facial musculature
asymmetric. Eye closure and brow raise symmetric. 
VIII: Hearing intact to voice.  
IX, X: Palate elevates symmetrically.  
XI: ___ strength in trapezii and SCM bilaterally.  
XII: Tongue protrudes in midline with normal velocity movements. 


 
- Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.  No adventitious movements other than mild postural
tremor L>R noted. No asterixis noted.  
SAb ElF ElE WrE FFl FE IO HipF HipE KnF KnE AnkD ___  
L 4+ 5  5    ___   4  5    5    5   5   unable------  
R ___    ___   4  5    5    ___    5    5  
 
- Sensory: No deficits to light touch, pinprick. Decreased joint
position sense versus does not understand the test. No 
extinction
to DSS.  
 
- DTRs:  
  BJ SJ TJ KJ AJ  
L ___  1  -
R ___  1  1  
Plantar response was withdrawal on the right, could not be
assessed on the left.
- Coordination: No intention tremor, normal finger tapping. No
dysmetria on FNF bilaterally.  
 
- Gait: Unable at baseline.

Discharge Exam: unchanged
 
Pertinent Results:
___ 06:12AM BLOOD WBC-8.3 RBC-4.30 Hgb-10.4* Hct-33.9* 
MCV-79* MCH-24.3* MCHC-30.8* RDW-15.3 Plt ___
___ 10:20AM BLOOD WBC-6.7 RBC-4.63 Hgb-11.2* Hct-37.3 
MCV-81* MCH-24.1* MCHC-29.9* RDW-15.4 Plt ___
___ 05:35AM BLOOD WBC-9.5 RBC-4.70 Hgb-11.5* Hct-37.8 
MCV-81* MCH-24.5* MCHC-30.4* RDW-15.7* Plt Ct-93*
___ 05:50PM BLOOD WBC-9.2 RBC-5.05# Hgb-12.3# Hct-41.0# 
MCV-81* MCH-24.4* MCHC-30.1* RDW-15.6* Plt ___
___ 06:12AM BLOOD Plt ___
___ 05:50PM BLOOD ___ PTT-25.3 ___
___ 06:12AM BLOOD Glucose-148* UreaN-46* Creat-5.1*# 
Na-128* K-5.0 Cl-89* HCO3-28 AnGap-16
___ 10:20AM BLOOD Glucose-240* UreaN-28* Creat-3.9*# 
Na-132* K-4.5 Cl-93* HCO3-32 AnGap-12
___ 05:35AM BLOOD Glucose-185* UreaN-50* Creat-6.5* Na-140 
K-5.1 Cl-100 HCO3-24 AnGap-21*
___ 05:50PM BLOOD Glucose-379* UreaN-42* Creat-5.7* Na-140 
K-5.5* Cl-98 HCO3-29 AnGap-19
___ 04:50PM BLOOD CK(CPK)-24*
___ 05:35AM BLOOD CK(CPK)-22*
___ 05:50PM BLOOD ALT-14 AST-17 AlkPhos-92 TotBili-0.1
___ 06:12AM BLOOD Calcium-8.1* Phos-6.4*# Mg-2.2
___ 05:35AM BLOOD %HbA1c-9.2* eAG-217*
___ 05:35AM BLOOD Triglyc-199* HDL-35 CHOL/HD-4.8 
LDLcalc-92
___ 05:35AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 05:35AM BLOOD TSH-1.7

CT: Negative
MRI brain:   
1. Multiple subacute infarcts, the distribution of which 
suggests a central embolic source. 
2. Multiple foci of infratentorial and supratentorial 
susceptibility with a 
nonspecific pattern.  Differential includes chronic hypertension 
and amyloid 
angiopathy. 
3. Suboptimal head and neck MRA secondary to patient motion 
artifact.  There 
appears to be mild narrowing of both intracranial internal 
carotid arteries, 
and the left posterior cerebral artery. The neck arteries are 
grossly patent. 

U/S of fistula: Widely patent AV fistula, evidence of stenosis 
at the arterial-graft anastomosis and at the graft -venous 
anastomosis. 

 
Brief Hospital Course:
Ms. ___ was admitted to the ___ Stroke service due to a 
stroke. Her stroke was likely due to a combination of factors 
including smoking, uncontrolled diabetes, and new onset 
paroxysmal atrial fibrillation picked up on telemetry. We have 
increased her aspirin to prevent further strokes. She underwent 
routine dialysis while in the hospital. Despite refusing insulin 
several times we suggested that she regularly check her blood 
sugar and follow up with her primary provider to discuss 
restarting insulin, she required 14 units of insulin one day and 
6 units the following day. She did not want to go back to 
___ management. We have discussed the 
risks and ___ of anticoagulation due to Afib, and she 
declined starting anticoagulation medication. In addition, we 
suggested that she go to ___ rehab, however she also 
declined this recommendation as well. We therefore suggested 
home physical, speech, and occupational therapy. We suggested 
she get an outpatient echo to r/o clot or other function 
deficits, although she would likely refuse anticoagulation at 
this time as well.

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack

1. Dysphagia screening before any PO intake? (X) Yes [performed 
and documented by admitting resident]  () No

2. DVT Prophylaxis administered by the end of hospital day 2? 
(X) Yes - () No

3. Antithrombotic therapy administered by end of hospital day 2? 
(X) Yes - () No

4. LDL documented (required for all patients)? () Yes (LDL = 92) 
- (X) No

5. Intensive statin therapy administered? () Yes - (X) No [if 
LDL >= 100, reason not given: ____ ]
(intensive statin therapy = simvastatin 80mg, simvastatin 
80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, rosuvastatin 
20mg or 40mg, for LDL >= 100)

6. Smoking cessation counseling given? (X) Yes - () No [if no, 
reason: () non-smoker - () unable to participate]

7. Stroke education given (written form in the discharge 
worksheet)? (X) Yes - () No
(stroke education = personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup)

8. Assessment for rehabilitation or rehab services considered? 
(X) Yes - () No [if no, reason not assessed: ____ ]

9. Discharged on statin therapy? () Yes - (X) No [if LDL >= 100 
or on a statin prior to hospitalization, reason not discharged 
on statin: ____ ]

10. Discharged on antithrombotic therapy? (X) Yes [Type: (X) 
Antiplatelet - () Anticoagulation] - () No

11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No [if no, reason not 
discharge on anticoagulation: ____ ] - (X) N/A

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 10 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Lisinopril 10 mg PO DAILY 
4. Nephrocaps 1 CAP PO DAILY 

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3
2. Nephrocaps 1 CAP PO DAILY 
RX *B complex-vitamin C-folic acid [Nephrocaps] 1 mg 1 
capsule(s) by mouth daily Disp #*30 Capsule Refills:*3
3. Aspirin 325 mg PO DAILY 
4. Lisinopril 10 mg PO DAILY 
RX *lisinopril 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Stroke
Uncontrolled diabetes

 
Discharge Condition:
Mental Status: Coherent but dysarthric
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Ms. ___,

You were admitted to the ___ Stroke service due to a stroke. 
We believe that your stroke was due to a combination of factors 
including smoking, uncontrolled diabetes, and an abnormal heart 
rhythm called Atrial Fibrillation. We have increased your 
aspirin to prevent further strokes. You have gotten your routine 
dialysis while in the hospital. You need to regularly check your 
blood sugar and follow up with your primary provider to discuss 
restarting insulin. We have discussed with you the risks and 
___ of anticoagulation due to Afib, you have decline 
starting anticoagulation medication. In addition, we suggested 
that you go to ___ rehab, however you have declined this 
recommendation as well. Please allow the home physical, speech, 
and occupational therapy to help you with recovery. Please 
continue with your regular medications as well. To check for 
blood clots and heart function, we have set you up with an 
outpatient echocardiogram here at ___ at the time below.
 
Followup Instructions:
___